US06326359B1
N-(9-[(2R,3R,4R,5R)-3,4-Bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{2-[(cyclopropylmethyl)amino]ethyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine
The title compound was prepared by a similar method to example 5 from N-{2-(2-aminoethyl)-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine (430 mg, 0.58 mmol) (preparation 18), cyclopropanecarbaldehyde (45 mg, 0.64 mmol) and sodium triacetoxyborohydride (270 mg, 1.27 mmol) in tetrahydrofuran (10 ml). The product was purified by column chromatography on silica gel eluting with a solvent gradient of dichloromethane rising in polarity to dichloromethane:methanol:ammonia (95:5:0.5) to give the title compound (360 mg) as a gum. MS: 788 (MH+).

reactant | N-{2-(2-aminoethyl)-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine | 0.58 mmol, 430 mg | NCCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H60N6O4Si2
reactant | cyclopropanecarbaldehyde | 0.64 mmol, 45 mg | C1(CC1)C=O | C4H6O
reactant | sodium triacetoxyborohydride | 1.27 mmol, 270 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(9-[(2R,3R,4R,5R)-3,4-Bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{2-[(cyclopropylmethyl)amino]ethyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine | 360 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CCNCC1CC1 | C43H66N6O4Si2
